US08383652B2
1.0 g (3.4 mmol) of ethyl (E)-2-methyl-3-(3′-methylaminobiphenyl-4-yl)acrylate is mixed with 2 mL of heptyl isocyanate and the medium is irradiated by microwave for 30 minutes at a temperature of 100° C. in an Emrys Optimizer machine. The residue obtained is purified by chromatography on a column of silica eluted with a 9/1 heptane/ethyl acetate mixture. 1.2 g (88%) of ethyl (E)-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]-2-methylacrylate are obtained.

reactant | ethyl (E)-2-methyl-3-(3′-methylaminobiphenyl-4-yl)acrylate | 3.4 mmol, 1.0 g | C/C(/C(=O)OCC)=C\C1=CC=C(C=C1)C1=CC(=CC=C1)NC | C19H21NO2
reactant | heptyl isocyanate | 2 mL | C(CCCCCC)N=C=O | C8H15NO
product | ethyl (E)-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]-2-methylacrylate | 1.2 g, 88% | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)/C=C(/C(=O)OCC)\C)=O | C27H36N2O3
